US07642220B2
10. Preparation of 2,6-Dichloro-5-methoxy-pyrimidin-4-ylamine
2,4,6-Trichloro-5-methoxypyrimidine (1.0 g, 4.7 mmol, see U.S. Pat. No. 3,984,411 for preparation) was dissolved in 15 mL dry dimethyl sulfoxide (DMSO) and treated with a stream of ammonia gas for 30 min. The mixture was poured into 30 mL water and the precipitated product was collected by filtration and washed with water. This solid was dissolved in 40 mL ethyl acetate, washed twice with water, washed once with brine, dried and evaporated to give the title compound (800 mg, 88% yield): mp 155-156° C.: 1HNMR (DMSO-d6+D2O) δ 3.71 (s, 3H).

reactant | 2,4,6-Trichloro-5-methoxypyrimidine | ClC1=NC(=C(C(=N1)Cl)OC)Cl | C5H3Cl3N2O
reactant | ammonia | N | H3N
reactant | water | 30 mL | O | H2O
solvent | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
product | 2,6-Dichloro-5-methoxy-pyrimidin-4-ylamine | 800 mg, 88% yield | ClC1=NC(=C(C(=N1)N)OC)Cl | C5H5Cl2N3O
